US09260397B2
3-propyl-1-(4-nitrophenyl)imidazolium bromide
According to the general synthesis procedure, 5.3 mmol (1.00 g) 1-(4-nitrophenyl)imidazole and 6.3 mmol (0.780 g, 0.58 ml) 1-bromopropane are dissolved in 5 ml THF and heated for 17 h to 90° C.

reactant | 1-(4-nitrophenyl)imidazole | 5.3 mmol, 1.00 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C=NC=C1 | C9H7N3O2
reactant | 1-bromopropane | 6.3 mmol, 0.58 ml, 0.780 g | BrCCC | C3H7Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-propyl-1-(4-nitrophenyl)imidazolium bromide | [Br-].C(CC)N1C=[N+](C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C12H14N3O2.BrH/c1-2-7-13-8-9-14(10-13)11-3-5-12(6-4-11)15(16)17;/h3-6,8-10H,2,7H2,1H3;1H/q+1;/p-1
